US07816380B2
To a solution of (+)-benzyl 3,3-difluoro-1-hydroxycyclopentanecarboxylate (1.8 g, 7.0 mmol) in 45 ml of EtOAc was added a suspension of 10% Palladium on Carbon (720 mg) in 5 ml of EtOAc. The mixture was stirred at room temperature under hydrogen atmosphere for 1 hour (balloon). The reaction mixture was filtered through a glass micropore filter to remove the catalyst and the filtrate was concentrated under vacuum to give (+)-3,3-difluoro-1-hydroxycyclopentanecarboxylic acid.

reactant | (+)-benzyl 3,3-difluoro-1-hydroxycyclopentanecarboxylate | 7.0 mmol, 1.8 g | FC1(CC(CC1)(C(=O)OCC1=CC=CC=C1)O)F | C13H14F2O3
solvent | EtOAc | 45 ml | CCOC(=O)C | C4H8O2
catalyst | Palladium on Carbon | 720 mg | [Pd] | Pd
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
product | (+)-3,3-difluoro-1-hydroxycyclopentanecarboxylic acid | FC1(CC(CC1)(C(=O)O)O)F | C6H8F2O3
